US07132426B2
Preparation of [1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)amine (Compound A128)
A mixture of [1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-yl-amine (100 mg, 0.24 mmol), 2-bromo-4-trifluoromethylpyridine (166 mg, 0.73 mmol), and potassium carbonate (102 mg, 0.73 mmol) in DMF (1.0 mL) was heated under microwave irradiation for 20 minutes at 165° C. The crude mixture was purified by HPLC to provide compound A128 as a white solid (41 mg, 32%). Exact mass calculated for C23H22F3N7O2S 517.15, found 518.2 (MH+).

reactant | [1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-yl-amine | 0.24 mmol, 100 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2NC2CCNCC2 | C17H20N6O2S
reactant | 2-bromo-4-trifluoromethylpyridine | 0.73 mmol, 166 mg | BrC1=NC=CC(=C1)C(F)(F)F | C6H3BrF3N
reactant | potassium carbonate | 0.73 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | [1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)amine | 41 mg, 32% | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2NC2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F | C23H22F3N7O2S
